US05739345
5-[4-{3-(3-Methylimidazo[5,4-b]pyridin-2-yl) propox-y}benzyl]thiazolidine-2,4-dione (Compound No. 1-123 )
A procedure similar to that described in Example 12 was repeated, except that 240 mg of 5-[4-{3-(3-methylimidazo[5,4-b]pyridin-2-yl)propoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 35) and 10 ml of a 3:1 by volume mixture of acetic acid and water were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 1:3 to 0:1 by volume as the eluent, to give 93 mg of the title compound, melting at 185°-186° C.

reactant | 5-[4-{3-(3-methylimidazo[5,4-b]pyridin-2-yl)propoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 240 mg | CN1C(=NC=2C1=NC=CC2)CCCOC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C39H34N4O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-[4-{3-(3-Methylimidazo[5,4-b]pyridin-2-yl) propox-y}benzyl]thiazolidine-2,4-dione | CN1C(=NC=2C1=NC=CC2)CCCOC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C20H20N4O3S
